US05241044
Polymerization of 2,5-bis(trifluoromethanesulfonyloxy)biphenyl
Polymerizations of 2,5bis(trifluoromethanesulfonyloxy)benzoate; 2,-tert-butyl-1,4-bis(trifluoromethanesulfonyloxy)benzene; bisphenol A, and 4,4'dihydroxy-1,1'-bisnapthyl are performed in the manner described in connection with EXAMPLE 6.

reactant | 2,5bis(trifluoromethanesulfonyloxy)benzoate | FC(S(=O)(=O)OC1=C(C(=O)[O-])C=C(C=C1)OS(=O)(=O)C(F)(F)F)(F)F
reactant | tert-butyl-1,4-bis(trifluoromethanesulfonyloxy)benzene | C(C)(C)(C)C1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C12H12F6O6S2
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
product | 2,5-bis(trifluoromethanesulfonyloxy)biphenyl | FC(S(=O)(=O)OC1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C14H8F6O6S2
